### PR TITLE
[Merged by Bors] - feat(FormalGroup): `F(X,0)=X` and `F(0,X)=X`

### PR DESCRIPTION
**Pull request by WenrongZou**
In this PR, I prove that given a formal group law `F`, then `F(X,0) = X` and `F(0,X) = X`. And modify the definition of `FormalGroup.Point` to be a subtype. And prove that this subtype is a `AddZeroClass`. Eventually we will prove that this is a `AddGroup`. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 1]
```diff
@@ -145,3 +178,144 @@ def map (f : R →+* S) : FormalGroup S where
...
 end FormalGroup
+
+section
+
+namespace FormalGroup
+
+variable (F : FormalGroup R)
+
+/-- An abbreviation for $F(X,0)$ for a formal group $F$. -/
+def F_X0 : PowerSeries R := subst ![PowerSeries.X, 0] F.toPowerSeries
```
Comment (eric-wieser) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: Variable names should not be present in definitoin names;
```suggestion
def X0 : PowerSeries R := subst ![PowerSeries.X, 0] F.toPowerSeries
```
seems a little more reasonable, then you can write `F.X0` below.

Comment (WenrongZou) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: Thanks!

Comment (WenrongZou) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: Ah, I think we need to use `F.X_zero` and `F.zero_X`, since name cannot start with a number.

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 2]
```diff
@@ -145,3 +178,144 @@ def map (f : R →+* S) : FormalGroup S where
...
 end FormalGroup
+
+section
+
+namespace FormalGroup
+
+variable (F : FormalGroup R)
+
+/-- An abbreviation for $F(X,0)$ for a formal group $F$. -/
+def X_zero : PowerSeries R := subst ![PowerSeries.X, 0] F.toPowerSeries
```
Comment (eric-wieser) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: Definition names should not contain underscores. Also, this should be an `abbrev` if it is truly an abbrevation
```suggestion
abbrev Xzero : PowerSeries R := subst ![PowerSeries.X, 0] F.toPowerSeries
```

Comment (eric-wieser) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: Though I think I would argue for dropping this entirely, Is `F.subst ![.X, 0]` legal?

Comment (WenrongZou) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: `F.subst ![.X, 0]` is illegal. Even though we already have the coercion from formal group to `MvPowerSeries`.

Comment (WenrongZou) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: I made it to be an `abbrev`. Since we used it severval times and it was quite annoying to write `subst ![PowerSeries.X, 0] F.toPowerSeries`. Also could you please help me to figure out why in somc context (like you mentioned above) `F` will not be cast to `MvPowerSeries` automatically? I was wondering whether is my instance of coercion is not good enough. Thanks in advance!

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 3]
```diff
@@ -145,3 +178,140 @@ def map (f : R →+* S) : FormalGroup S where
...
+variable (F : FormalGroup R)
+
+/-- An abbreviation of $F(X,0)$ for a formal group $F$. -/
+abbrev Xzero : PowerSeries R := subst ![PowerSeries.X, 0] F.toPowerSeries
+
+lemma constantCoeff_Xzero : PowerSeries.constantCoeff F.Xzero = 0 := by
+  simp [PowerSeries.constantCoeff, Xzero, PowerSeries.X, MvPowerSeries.constantCoeff_subst_eq_zero
+    HasSubst.X_zero _ F.zero_constantCoeff]
+
+lemma Xzero_subst_Xzero : F.Xzero.subst F.Xzero = F.Xzero := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/FormalGroup/Basic.lean:225]:
```suggestion
@[simp]
lemma Xzero_subst_Xzero : F.Xzero.subst F.Xzero = F.Xzero := by
```

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 4]
```diff
@@ -145,3 +178,140 @@ def map (f : R →+* S) : FormalGroup S where
...
+        · simp [PowerSeries.X, subst]
+      · exact HasSubst.zero_X
+    _ = _ := by
+      rw [zero_add_X_eq_X, PowerSeries.subst_X hf]
+
+instance : AddZeroClass (F.Point σ) where
+  zero := 0
+  add x y := x + y
+  zero_add x := Subtype.ext (zero_add F x.prop)
+  add_zero x := Subtype.ext (add_zero F x.prop)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]:
```suggestion
instance : AddZeroClass (F.Point σ) where
  zero_add x := Subtype.ext (zero_add F x.prop)
  add_zero x := Subtype.ext (add_zero F x.prop)
```

File: Mathlib/RingTheory/FormalGroup/Basic.lean
Comment (mariainesdff) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: Can you link to the corresponding Lean declarations?

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 5]
```diff
@@ -83,10 +111,16 @@ Mathematically, a 1-dimensional formal group law $F$ over a ring $R$ defines a g
 structure on the elements of a complete local $R$-algebra (specifically, its maximal ideal)
 via the substitution operation $x +_F y = F(x, y)$. -/
```
Comment (mariainesdff) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: Here you are only defining it in a particular case, so you should make this part of the doctring a TODO.

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 6]
```diff
@@ -145,3 +178,140 @@ def map (f : R →+* S) : FormalGroup S where
...
+        · simp [← PowerSeries.subst_def, PowerSeries.subst_X this]
+        · simp [← PowerSeries.subst_def, ← PowerSeries.coe_substAlgHom this]
+      · exact HasSubst.X_zero
+    _ = _ := by
+      have : ![0, 0] = (0 : Fin 2 → PowerSeries R) := by
+        ext x : 1; fin_cases x <;> rfl
+      simp [F.assoc', this, subst_zero_of_constantCoeff_zero F.zero_constantCoeff,
+        PowerSeries.HasSubst.X', PowerSeries.HasSubst]
+
+lemma X_add_zero_eq_X : F.toPowerSeries.subst ![PowerSeries.X (R := R), 0] = PowerSeries.X := by
```
Comment (mariainesdff) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]:
```suggestion
lemma Xzero_eq_X : F.Xzero = PowerSeries.X := by
```

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 7]
```diff
@@ -145,3 +178,140 @@ def map (f : R →+* S) : FormalGroup S where
...
+  haveI : Invertible (F.Xzero.coeff 1) := by
+    convert invertibleOne
+    rw [PowerSeries.coeff,  coeff_subst _, finsum_eq_single _ (single 0 1)]
```
Comment (mariainesdff) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]:
```suggestion
    rw [PowerSeries.coeff, coeff_subst, finsum_eq_single _ (single 0 1)]
```

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 8]
```diff
@@ -145,3 +178,140 @@ def map (f : R →+* S) : FormalGroup S where
...
+    · simp [F.lin_coeff_X]
+    · intro d hd
+      by_cases hd₁ : d 1 = 0
+      · by_cases hd₀ : d 0 = 0
+        · simp [hd₀, hd₁]
+        simp [hd₁, PowerSeries.coeff_X_pow]
+        grind
+      simp [hd₁]
+    · exact HasSubst.X_zero
```
Comment (mariainesdff) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]: Could you extract this as a lemma?

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 9]
```diff
@@ -145,3 +178,140 @@ def map (f : R →+* S) : FormalGroup S where
...
+        fin_cases d
+        · simp [← PowerSeries.subst_def, ← PowerSeries.coe_substAlgHom this]
+        · simp [← PowerSeries.subst_def, PowerSeries.subst_X this]
+      · exact HasSubst.zero_X
+    _ = _ := by
+      have : ![0, 0] = (0 : Fin 2 → PowerSeries R) := by ext x : 1; fin_cases x <;> rfl
+      simp [← F.assoc', this, subst_zero_of_constantCoeff_zero F.zero_constantCoeff,
+        PowerSeries.HasSubst.X', PowerSeries.HasSubst]
+
+lemma zero_add_X_eq_X : F.toPowerSeries.subst ![0, PowerSeries.X (R := R)] = PowerSeries.X := by
```
Comment (mariainesdff) [inline Mathlib/RingTheory/FormalGroup/Basic.lean]:
```suggestion
lemma zeroX_eq_X : F.zeroX = PowerSeries.X := by
```

Comment (mariainesdff) [reply Mathlib/RingTheory/FormalGroup/Basic.lean]: Also extract the lemma about `coeff 1`.

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 10]
```diff
@@ -394,28 +410,26 @@ variable {υ : Type*}
...
-    · intro t' htt' ht'
-      simp [ht'] at htt'
-    · exact fun _ ↦ by rw [pow_zero]
+  obtain ⟨i, hi⟩ : d.support.Nonempty := d.support_nonempty_iff.mpr hd
+  rw [Finsupp.prod, map_prod, ← Finset.prod_erase_mul _ _ hi, ← algebraMap_smul S,
+    smul_eq_mul, ← mul_assoc, map_pow]
+  exact Commute.isNilpotent_mul_left (Commute.all _ _)
+    <| (IsNilpotent.pow_iff_pos (d.mem_support_iff.mp hi)).mpr (ha.const_coeff i)
+
+theorem IsNilpotent_subst (ha : HasSubst a)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean]: This should mention `substAlgHom` and the primed version should be the "normal" one.

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 11]
```diff
@@ -196,6 +196,10 @@ theorem subst_sub (ha : HasSubst a) (f g : PowerSeries R) :
     subst a (f - g) = subst a f - subst a g := by
   rw [← coe_substAlgHom ha, map_sub]
 
+theorem subst_zero_of_constantCoeff_zero {f : PowerSeries R} (hf : f.constantCoeff = 0) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean:204]: This can be `simp`.

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 12]
```diff
@@ -342,6 +348,16 @@ theorem map_subst {a : σ → MvPowerSeries τ R} (ha : HasSubst a) {h : R →+*
   simp [smul_eq_mul, RingHom.toAddMonoidHom_eq_coe, AddMonoidHom.coe_coe, map_mul,
     ← coeff_map, Finsupp.prod]
 
+lemma subst_zero_of_constantCoeff_zero {f : MvPowerSeries σ R} (hf : f.constantCoeff = 0) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean]: This can be `simp`.

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 13]
```diff
@@ -145,3 +197,149 @@ def map (f : R →+* S) : FormalGroup S where
...
+        fin_cases d
+        · simp [← PowerSeries.subst_def, ← PowerSeries.coe_substAlgHom this]
+        · simp [← PowerSeries.subst_def, PowerSeries.subst_X this]
+      · exact HasSubst.zero_X
+    _ = _ := by
+      have : ![0, 0] = (0 : Fin 2 → PowerSeries R) := by ext x : 1; fin_cases x <;> rfl
+      simp [← F.assoc', this, subst_zero_of_constantCoeff_zero F.zero_constantCoeff,
+        PowerSeries.HasSubst.X', PowerSeries.HasSubst]
+
+lemma zeroX_eq_X : F.zeroX = PowerSeries.X := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/FormalGroup/Basic.lean:294]: `simp`?

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 14]
```diff
@@ -145,3 +197,149 @@ def map (f : R →+* S) : FormalGroup S where
...
+  calc
+    _ = F.zeroX.substInv.subst (F.zeroX.subst F.zeroX) := by
+      have aux₀ : PowerSeries.HasSubst F.zeroX :=
+        PowerSeries.HasSubst.of_constantCoeff_zero' <| F.constantCoeff_zeroX
+      rw [← PowerSeries.subst_comp_subst_apply aux₀ aux₀, PowerSeries.subst_substInv_left _
+        F.constantCoeff_zeroX, PowerSeries.subst_X aux₀, zeroX]
+    _ = _ := by
+      rw [zeroX_subst_zeroX, F.zeroX.subst_substInv_left F.constantCoeff_zeroX]
+
+theorem add_zero {f : MvPowerSeries σ R} (hf : PowerSeries.HasSubst f) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/FormalGroup/Basic.lean:305]: `simp`?

File: Mathlib/RingTheory/FormalGroup/Basic.lean [hunk 15]
```diff
@@ -145,3 +197,149 @@ def map (f : R →+* S) : FormalGroup S where
...
+      rw [PowerSeries.subst, subst_comp_subst_apply _ hf.const]
+      · congr! 2 with s
+        fin_cases s
+        · simp [PowerSeries.X, subst]
+        · simp [subst, eval₂]
+      exact HasSubst.X_zero
+    _ = _ := by
+      simp [Xzero_eq_X, PowerSeries.subst_X hf]
+
+theorem zero_add {f : MvPowerSeries σ R} (hf : PowerSeries.HasSubst f) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/FormalGroup/Basic.lean:318]: `simp`?

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

**Comment by WenrongZou** [comment]
Thanks! 
bors r+
